US06610701B2
Step C. [2-(aminomethyl)-5-chlorophenyl]methanol
To LAH (1 M/Et2O, 104.4 ml, 104.4 mmol) in anhydrous THF (300 ml) at 0° C. was added methyl 5-chloro-2-cyanobenzoate (9.28 g, 0.512 mmol) maintaining the temperature below 20° C. After one half hour, quenched at OC with water (3.97 ml), NaOH (1N, 11.9 ml, 11.9 mmol) and water (3.97 ml). A precipitate was filtered out and washed with THF. The filtrate was concentrated in vacuo and was used immediately in the next step.

reactant | LAH | 104.4 mmol, 1 M, 104.4 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 5-chloro-2-cyanobenzoate | 0.512 mmol, 9.28 g | ClC=1C=CC(=C(C(=O)OC)C1)C#N | C9H6ClNO2
reactant | water | 3.97 ml | O | H2O
reactant | NaOH | 11.9 mmol, 1N, 11.9 ml | [OH-].[Na+]
reactant | water | 3.97 ml | O | H2O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | [2-(aminomethyl)-5-chlorophenyl]methanol | NCC1=C(C=C(C=C1)Cl)CO | C8H10ClNO
